US06140274
In a reaction vessel containing 10.42 g of 1,5-pentanediol was put 2.20 g of 60% sodium hydride (in oil), and the mixture was stirred until the evolution of hydrogen gas ceased, to which 3.83 g of 3-chloro-1-propene was added dropwise under ice cooling. The reaction mixture was slowly warmed and stirred at 60° C. for 3 hours, which was then poured into water and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over magnesium sulfate and then concentrated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 1.50 g of 5-(3-chloro-1-propenyloxy)pentanol (yield, 21%).

reactant | 1,5-pentanediol | 10.42 g | C(CCCCO)O | C5H12O2
reactant | sodium hydride | 2.20 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-chloro-1-propene | 3.83 g | ClCC=C | C3H5Cl
solvent | water | O | H2O
product | 5-(3-chloro-1-propenyloxy)pentanol | 1.50 g, 21% | ClCC=COCCCCCO | C8H15ClO2
